US05164383
20 g (0.1 mol) of S-propyl dichlorothiophosphate are dissolved in 500 ml of hexane, and the solution is first treated, between 0° and -5° C., with 20 ml (0.14 mol) of triethylamine and then with 20 g (0.1 mol) of 2,2,3,3,4,4-hexafluorocyclopentan-1-ol, dissolved in 50 ml of methylene chloride. The mixture is stirred for 2 hours at 20° C., and ammonia is then passed in at 20° C. (DC check). To complete the reaction, the mixture is stirred for 24 hours at 20° C., the solid is filtered off, and the solvent is distilled off under reduced pressure. The residue is then purified further by filtration through silica gel (cyclohexane:ethyl acetate=7:3 parts by volume). After the solvent has been distilled off, 8.6 g (27% of theory) of O-(2,2,3,3,4,4-hexafluorocyclopentyl) S-propyl thiophosphoramidate of refractive index nD20 =1.4390 are obtained.

reactant | S-propyl dichlorothiophosphate | 0.1 mol, 20 g | P(=O)(SCCC)(Cl)Cl | C3H7Cl2OPS
reactant | triethylamine | 0.14 mol, 20 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2,3,3,4,4-hexafluorocyclopentan-1-ol | 0.1 mol, 20 g | FC1(C(CC(C1(F)F)(F)F)O)F | C5H4F6O
reactant | ammonia | N | H3N
solvent | hexane | 500 ml | CCCCCC | C6H14
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | O-(2,2,3,3,4,4-hexafluorocyclopentyl) S-propyl thiophosphoramidate | 8.6 g, 27% | P(OC1C(C(C(C1)(F)F)(F)F)(F)F)(SCCC)(=O)N | C8H12F6NO2PS
